US04843087
5-{5-[2,6-Dimethyl-4-(5-oxazolyl)phenoxy]pentyl}-3-methylisoxazole [I; Het=4-(5-oxazolyl), R=CH3, R1 =2-CH3, R2 =6-CH3, R3 =H, X=O, Y=(CH2)5 ] was prepared from 3,5-dimethyl-4-[5-(3-methyl-5-isoxazolyl)pentyloxy]benzaldehyde and tosylmethyl isocyanide according to the procedure of Example 96(b), and was obtained in 69% yield as a pale yellow powder, m.p. 56°-58° C. (from isopropyl acetate-hexane).

reactant | 5-{5-[2,6-Dimethyl-4-(5-oxazolyl)phenoxy]pentyl}-3-methylisoxazole | CC1=C(OCCCCCC2=CC(=NO2)C)C(=CC(=C1)C1=CN=CO1)C | C20H24N2O3
reactant | 3,5-dimethyl-4-[5-(3-methyl-5-isoxazolyl)pentyloxy]benzaldehyde | CC=1C=C(C=O)C=C(C1OCCCCCC1=CC(=NO1)C)C | C18H23NO3
reactant | tosylmethyl isocyanide | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
product | isopropyl acetate hexane | 69% yield | C(C)(=O)OC(C)C.CCCCCC | InChI=1S/C6H14.C5H10O2/c1-3-5-6-4-2;1-4(2)7-5(3)6/h3-6H2,1-2H3;4H,1-3H3
